US07319104B2
A mixture of 1-(6-{allyl[4-(trifluoromethoxy)benzyl]amino}pyridin-3-yl)ethanone (10 g; 28.5 mmol), 4-bromo-anisole (5.6 g; 29.9 mmol), palladium (II) acetate (0.14 g; 0.63 mmol) and tri-o-tolylphosphine (0.57 g; 1.88 mol) in 11 ml of MeCN and 8 ml of DIEA was heated to reflux overnight. Upon cooling, the mixture was concentrated and the residue partitioned between ethyl acetate and 1N NaOH. The organic phase was dried over sodium sulfate and concentrated. Purification by flash chromatography eluting with dichloromethane afforded 1-(6-{[(2E)-3-(4-methoxyphenyl)prop-2-enyl][4-(trifluoromethoxy)benzyl]amino}pyridin-3-yl)ethanone (7.4 g; 54% yield).

reactant | 1-(6-{allyl[4-(trifluoromethoxy)benzyl]amino}pyridin-3-yl)ethanone | 28.5 mmol, 10 g | C(C=C)N(C1=CC=C(C=N1)C(C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C18H17F3N2O2
reactant | 4-bromo-anisole | 29.9 mmol, 5.6 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | tri-o-tolylphosphine | 1.88 mol, 0.57 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | MeCN | 11 ml | CC#N | C2H3N
solvent | DIEA | 8 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | palladium (II) acetate | 0.63 mmol, 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(6-{[(2E)-3-(4-methoxyphenyl)prop-2-enyl][4-(trifluoromethoxy)benzyl]amino}pyridin-3-yl)ethanone | 7.4 g, 54% yield | COC1=CC=C(C=C1)/C=C/CN(C1=CC=C(C=N1)C(C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C25H23F3N2O3
